US04496577
Dimethyl 2-azidoazelate
Sodium azide (4.87 g, 75 mmol) was added to a solution of dimethyl 2-bromoazelate (5.9 g, 20 mmol) prepared according to Auguston, M, et al; Acta Chim. Acad. Sci. Hung; 46:85 (1965) in acetonitrile, and the mixture was heated at reflux temperature for 4 h. The solvent was removed in vacuo, dichloromethane (80 ml) was added to the residue, and the mixture was washed with water. The organic phase was dried over sodium sulfate and the solvent was removed in vacuo to give the title compound as an oil.

reactant | Sodium azide | 75 mmol, 4.87 g | [N-]=[N+]=[N-].[Na+]
reactant | dimethyl 2-bromoazelate | 20 mmol, 5.9 g | BrC(C(=O)OC)CCCCCCC(=O)OC | C11H19BrO4
solvent | acetonitrile | C(C)#N | C2H3N
product | Dimethyl 2-azidoazelate | N(=[N+]=[N-])C(C(=O)OC)CCCCCCC(=O)OC | C11H19N3O4
